US07790763B2
b) Methanesulfonic acid 1-(2-isopropoxy-5-methanesulfonyl-benzoyl)-piperidin-4-yl ester
To a solution of 0.29 mmol (4-hydroxy-piperidin-1-yl)-(2-isopropoxy-5-methanesulfonyl-phenyl)-methanone in 6 ml dichloromethane at 0° C. were added successively 0.73 mmol triethylamine and 0.35 mmol methanesulfonyl chloride. The reaction mixture was stirred at 0° C. for 20 min and then at RT for 2 h. The reaction mixture was then diluted with dichloromethane, washed with water, and the organic phase dried over sodium sulfate and concentrated in vacuo to afford the title compound as a light brown solid (yield 93%). MS (m/e): 420.1 (M+H+, 100%).

reactant | (4-hydroxy-piperidin-1-yl)-(2-isopropoxy-5-methanesulfonyl-phenyl)-methanone | 0.29 mmol | OC1CCN(CC1)C(=O)C1=C(C=CC(=C1)S(=O)(=O)C)OC(C)C | C16H23NO5S
reactant | triethylamine | 0.73 mmol | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.35 mmol | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 6 ml | ClCCl | CH2Cl2
product | Methanesulfonic acid 1-(2-isopropoxy-5-methanesulfonyl-benzoyl)-piperidin-4-yl ester | yield 93% | C(C)(C)OC1=C(C(=O)N2CCC(CC2)OS(=O)(=O)C)C=C(C=C1)S(=O)(=O)C | C17H25NO7S2
